US09126931B2
2-Bromo-3-nitro-benzonitrile (Compound U1, 678 mg, 2.987 mmol) was dissolved in ethanol (20.9 mL) and water (8.96 mL), added with acetic acid (2.39 mL, 41.81 mmol) and iron (1.17 g, 20.91 mmol), and stirred at 60° C. for 18 hr. The reaction solution was poured into aqueous solution of sodium hydroxide (1 M), extracted with ethyl acetate, washed with water and saturated brine, dried over sodium sulfate, and then filtered. After concentration under reduced pressure, 3-amino-2-bromo-benzonitrile (Compound U2) was obtained as a crude product.

reactant | 2-Bromo-3-nitro-benzonitrile | 2.987 mmol, 678 mg | BrC1=C(C#N)C=CC=C1[N+](=O)[O-] | C7H3BrN2O2
reactant | acetic acid | 41.81 mmol, 2.39 mL | C(C)(=O)O | C2H4O2
reactant | sodium hydroxide | 1 M | [OH-].[Na+]
solvent | ethanol | 20.9 mL | C(C)O | C2H6O
solvent | water | 8.96 mL | O | H2O
catalyst | iron | 20.91 mmol, 1.17 g | [Fe] | Fe
product | 3-amino-2-bromo-benzonitrile | NC=1C(=C(C#N)C=CC1)Br | C7H5BrN2
